Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Nausea/Vomiting
 
Major Surgical or Invasive Procedure:
Band adjustment

 
History of Present Illness:
Ms. ___ is a ___ s/p lap band in ___ who prsents with a 1
week history of nausea, non-bilious non-bloody emesis of
undigested food after eating, intolerance to solids/softs,
hypersalivation, and moderate post-prandial epigastric
discomfort. She denies fever, chills, hematemesis, BRBPR, 
melena,
diarrhea, or sympotoms of dehydration, but was recently 
evaluated
for dizziness in an ED with a diagnosis given of BPPV. Of note,
the patient underwent an unfill of her band from 5.8 to 3.8ml on
___ for similar symptoms, the band was subseqently been filled
to 4.8 on ___, 5.2 on ___, and most recently to 5.6ml on 
___.

 
Past Medical History:
PMHx: Hyperlipidemia and with elevated triglyceride, iron
deficiency anemia, irritable bowel syndrome, allergic rhinitis,
dysmenorrhea, vitamin D deficiency, question of hypothyroidism
with elevated TSH level, thalassemia trait, fatty liver and
cholelithiasis by ultrasound study. A history of kissing tonsils
that was associated with obstructive sleep apnea and
gastroesophageal reflux, these have resolved completely after 
the
tonsillectomy in ___. History of polycystic ovary
syndrome
 
Social History:
___
Family History:
bladder CA; with diabetes, breast neoplasia, colon CA, ovarian 
CA and sarcoma
 
Physical Exam:
VS: Temp: 97.9, HR: 72, BP: 113/64, RR: 16, O2sat: 100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, MMM
CV: RRR
PULM: No W/R/C, no increased work of breathing
ABD: Soft, nondistended, non-tender to palpation in epigastric 
region, no rebound or guarding, palpable port
Ext: No ___ edema, warm and well perfused

 
Pertinent Results:
___ 12:16AM   PLT COUNT-243
___ 12:16AM   NEUTS-46.0 ___ MONOS-6.9 EOS-1.8 
BASOS-0.5 IM ___ AbsNeut-4.88 AbsLymp-4.72* AbsMono-0.73 
AbsEos-0.19 AbsBaso-0.05
___ 12:16AM   estGFR-Using this
___ 01:02AM URINE  MUCOUS-RARE
___ 01:02AM URINE  HYALINE-1*
___ 01:02AM URINE  RBC-4* WBC-4 BACTERIA-MOD YEAST-NONE 
EPI-11
___ 01:02AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR
___ 01:02AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 01:02AM URINE  UCG-NEGATIVE
___ 01:02AM URINE  HOURS-RANDOM
___ 01:02AM URINE  HOURS-RANDOM
 
Brief Hospital Course:
___ was admitted from ED on ___ for nausea and 
vomiting after any po intake. Of note, she has had similar 
symptomes last year. She was started on IV fluids for 
rehydration. Her laboratory values were unremarkable on 
admission and her symptoms gradually improved with anti-emetic 
medications and IV fluid therapy. She was back to her baseline 
clinical status after unfilling the band by 1.5cc. Water 
challenge test was done after band adjustment and was negative 
for any pain, nausea or vomiting. She was discharged in good 
condition with instructions to follow up with Dr. ___ 
___ after 2. 

 
Discharge Medications:
1. Lorazepam 0.5 mg PO BID:PRN anxiety 
2. BusPIRone 5 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
nausea and vomiting due to tight band

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for your Nausea and vomiting. Your 
band was tight enough to cause your nausea and vomiting, 1.5 cc 
has been taken out from your band in which 2.5cc total left. you 
subsequently tolerated a water bolus test. You have been deemed 
fit to be discharged from the hospital. Please return if your 
nausea becomes untolerable or you start vomiting again. Please 
continue taking your home medications.
Thank you for letting us participate in your healthcare. 

 
Followup Instructions:
___